US09034900B2
Examples 508-511 as described in Table 22 were prepared in three steps. Using conditions similar to those described in WO2005/40151 (Preparation 6), 5-bromo-3-methylpyridin-2-ol was N-alkylated with isopropyl bromide to give 5-bromo-3-methyl-1-propan-2-ylpyridin-2-one which was then reacted with 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane using conditions similar to those described in Example 248, step 2 to give the pinacol ester, 3-methyl-1-propan-2-yl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one. This pinacol ester was then substituted for the pinacol ester of the example shown under Synthetic Method in Table 22 and reacted in the same way as the example to obtain the title compounds.

reactant | 5-bromo-3-methylpyridin-2-ol | BrC=1C=C(C(=NC1)O)C | C6H6BrNO
reactant | isopropyl bromide | C(C)(C)Br | C3H7Br
product | 5-bromo-3-methyl-1-propan-2-ylpyridin-2-one | BrC=1C=C(C(N(C1)C(C)C)=O)C | C9H12BrNO
